US08975400B2
7-((3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E71 using tert-butyl 7-((3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyri-midine-1(5H)-carboxylate (50 mg, 0.096 mmol) in DMF (2 mL) and silica gel.

reactant | tert-butyl 7-((3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyri-midine-1(5H)-carboxylate | 0.096 mmol, 50 mg | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=CC1OC1=CC(=NC=C1)C(F)(F)F | C24H22F4N4O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-((3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3)C=CC1OC1=CC(=NC=C1)C(F)(F)F | C19H14F4N4O3
